US09388174B2
A reaction mixture solution prepared by suspending 155.2 mg of ethyl 2-[4-fluoro-3-nitrophenyl]-4-methyl-1,3-thiazole-5-carboxylate and 244.4 mg of cesium carbonate in 1.5 mL of N,N-dimethylformamide and adding 49.6 mg of 2-methylpropylthiol was heated under stirring at 80° C. for 5 hours under a nitrogen atmosphere. The reaction mixture solution was cooled to room temperature, 3 mL of water was added and extraction was performed using ethyl acetate. The organic layer was concentrated under reduced pressure to obtain a crude product of ethyl 2-[4-(2-methylpropylthio)-3-nitropheny]-4-methyl-1,3-thiazole-5-carboxylate. (2) The crude product of ethyl 2-[4-(2-methylpropylthio)-3-nitropheny]-4-methyl-1,3-thiazole-5-carboxylate obtained above was reduced using palladium carbon under a hydrogen atmosphere to obtain ethyl 2-[3-amino-4-(2-methylpropylthio)phenyl]-4-methyl-1,3-thiazole-5-carboxylate. (3) A reaction mixture solution prepared by suspending ethyl 2-[3-amino-4-(2-methylpropylthio)phenyl]-4-methyl-1,3-thiazole-5-carboxylate obtained above in 2.0 mL of acetic acid and adding 65 mg of sodium azide and 148 mg of triethyl ortho formate was heated at 70° C. for 5 hours under a nitrogen atmosphere. The reaction mixture solution was cooled to room temperature, water was added and extraction was performed using ethyl acetate. The organic layer was washed with saline and then dried and concentrated under reduce pressure, followed by purifying by a conventional method to obtain 123 mg of ethyl 4-methyl-2-{4-[(2-methylpropyl)sulfanyl]-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl}-1,3-thiazole-5-carboxylate. (4) A reaction mixture solution prepared by adding 123 mg of ethyl 4-methyl-2-{4-[(2-methylpropyl)sulfanyl]-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl}-1,3-thiazole-5-carboxylate to 2 mL of a mixed solution of tetrahydrofuran/methanol=1/1 and adding 0.5 mL of 2 M sodium hydroxide aqueous solution was stirred at room temperature for 3 hours. After the addition of 0.5 mL of 2 M hydrochloric acid to the reaction mixture solution under stirring, 3 mL of water was added and extraction was performed using ethyl acetate. The organic phase was concentrated, followed by purifying by a conventional method to obtain 67.9 mg of 4-methyl-2-{4-[(2-methylpropyl)sulfanyl]-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl}-1,3-thiazole-5-carboxylic acid.

reactant | ethyl 2-[3-amino-4-(2-methylpropylthio)phenyl]-4-methyl-1,3-thiazole-5-carboxylate | NC=1C=C(C=CC1SCC(C)C)C=1SC(=C(N1)C)C(=O)OCC | C17H22N2O2S2
reactant | sodium azide | 65 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethyl ortho formate | 148 mg | C(OCC)(OCC)OCC | C7H16O3
reactant | water | O | H2O
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | ethyl 4-methyl-2-{4-[(2-methylpropyl)sulfanyl]-3-(1H-1,2,3,4-tetrazol-1-yl)phenyl}-1,3-thiazole-5-carboxylate | 123 mg | CC=1N=C(SC1C(=O)OCC)C1=CC(=C(C=C1)SCC(C)C)N1N=NN=C1 | C18H21N5O2S2
